US08685970B2
To a solution of 8-bromo-2-chloroquinoline (14.3 g, 60 mmol) in toluene (90 mL) at −75° C. was added butyllithium in hexanes (2 mol/L, 30 mL) and the reaction mixture was kept for 20 min at −75° C. The reaction mixture was poured onto an excess of freshly crushed dry ice. Water was added (200 mL), and the aqueous layer was washed with ethyl acetate (3×100 mL), acidified to pH 1 with HCl (aq), and extracted with CH2Cl2 (3×100 mL). The combined organic layers were dried, and concentrated to afford 2-chloroquinoline-8-carboxylic acid as a white solid. Yield 6.56 g (53.6%).

reactant | 8-bromo-2-chloroquinoline | 60 mmol, 14.3 g | BrC=1C=CC=C2C=CC(=NC12)Cl | C9H5BrClN
reactant | butyllithium | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | Water | O | H2O
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | 2-chloroquinoline-8-carboxylic acid | ClC1=NC2=C(C=CC=C2C=C1)C(=O)O | C10H6ClNO2
